US07402595B2
[2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl]carbamic acid benzyl ester
To a mixture of 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (220 mg), triethylamine (91 μl) and toluene (4.4 ml) was added diphenylphosphorylazide (185 μl) at room temperature with stirring, and the mixture was stirred at room temperature for 1 hr. and at 80° C. for 1 hr. After cooling, benzyl alcohol (79 μl) was added to the reaction mixture, and the mixture was further stirred at 80° C. for 12 hrs. After cooling the reaction mixture, the solvent was evaporated under reduced pressure and the residue was purified by medium pressure preparative LC (hexane/ethyl acetate=4/1-1/1) to give the title compound (160 mg) as pale-yellow crystals.

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 220 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)Br)=O | C24H16BrNO5
reactant | triethylamine | 91 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 185 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 79 μl | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 4.4 ml | C1(=CC=CC=C1)C | C7H8
product | [2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl]carbamic acid benzyl ester | 160 mg | C(C1=CC=CC=C1)OC(NC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1)=O | C31H23BrN2O5
